US04088667
To 19.5 g (0.1 M) of methyl N-carbethoxy-2-chloroglycinate and 17.0 g (0.1 M) of bis-trimethylsilyl acetylene in 200 ml of methylene chloride at 0° C is added 13.5 g (0.1 M) of aluminum chloride and the reaction mixture is allowed to warm to 25° C. After 24 hours at 25° C water is carefully added to the mixture which is then extracted with methylene chloride. The combined organic solutions are dried over magnesium sulfate, concentrated and distilled with the b.p. 100°/0.15 mm fraction collected to give methyl 2-trimethylsilylacetylene-2-carbethoxyaminoacetate.

reactant | methyl N-carbethoxy-2-chloroglycinate | 0.1 M, 19.5 g | C(=O)(OCC)NC(C(=O)OC)Cl | C6H10ClNO4
reactant | bis-trimethylsilyl acetylene | 0.1 M, 17.0 g | C[Si](C)(C)C#C[Si](C)(C)C | C8H18Si2
reactant | aluminum chloride | 0.1 M, 13.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-trimethylsilylacetylene 2-carbethoxyaminoacetate | CC#C[Si](C)(C)C.C(=O)(OCC)NCC(=O)[O-] | InChI=1S/C6H12Si.C5H9NO4/c1-5-6-7(2,3)4;1-2-10-5(9)6-3-4(7)8/h1-4H3;2-3H2,1H3,(H,6,9)(H,7,8)/p-1
